US06124343
4-Bromomethyl-2-fluoropyridine
A solution of 2-fluoro-4-methylpyridine (0.5 g) in chloroform (50 ml) was treated with N-bromosuccinimide (1.35 g) and azobisisobutyronitrile (0.25 g). The mixture was heated at reflux for 30 hours, cooled to room temperature and washed with water (30 ml). The chloroform solution was evaporated and the resulting brown oil purified by flash chromatography on silica eluting initially with a mixture of ethyl acetate and pentane (1:9, v/v) then with a mixture of ethyl acetate and pentane (15:85, v/v). Fractions homogenous in the required product were combined and evaporated affording the title compound (0.18 g) as a yellow oil.

reactant | 2-fluoro-4-methylpyridine | 0.5 g | FC1=NC=CC(=C1)C | C6H6FN
reactant | N-bromosuccinimide | 1.35 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 0.25 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Bromomethyl-2-fluoropyridine | 0.18 g | BrCC1=CC(=NC=C1)F | C6H5BrFN
